US07888386B2
(S)-3-Benzoylpyrrolidine-1-carboxylic Acid t-Butyl Ester
(S)-3-(Methoxymethylcarbamoyl)pyrrolidine-1-carboxylic acid t-butyl ester (400 mg, 1.6 mmol) and THF (10 mL, 0.1 mol) were combined under nitrogen. The solution was cooled at 0° C. using an ice bath. 1.0 M of Phenylmagnesium bromide in THF (7.0 mL, 7.0 mmol) was added dropwise over 5 minutes. The mixture was slowly warmed to room temperature and stirred for 30 minutes. The mixture was cooled in an ice bath and the reaction was quenched by the slow addition of water (15 mL). The mixture was extracted with EtOAc (1×100 mL), and the organic layer was washed with sat. NaCl (50 mL), dried over Na2SO4, filtered, and concentrated to yield 849 mg of crude product, which was purified by flash chromatography (12 g column, 20-100% EtOAc in hexanes over 17 minutes), and placed under high vacuum for 15 minutes to yield 372 mg of the title compound as a clear oil.

reactant | (S)-3-(Methoxymethylcarbamoyl)pyrrolidine-1-carboxylic acid t-butyl ester | 1.6 mmol, 400 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(NCOC)=O | C12H22N2O4
reactant | THF | 0.1 mol, 10 mL | C1CCOC1 | C4H8O
reactant | Phenylmagnesium bromide | 1.0 M | C1(=CC=CC=C1)[Mg]Br
reactant | THF | 7.0 mmol, 7.0 mL | C1CCOC1 | C4H8O
product | (S)-3-Benzoylpyrrolidine-1-carboxylic Acid t-Butyl Ester | 372 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(C1=CC=CC=C1)=O | C16H21NO3
